US07737136B2
trans-N-(6,7-Dichloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)acetamide (Structure 19B of scheme IV, where X=O, R1=H, R2=H, R5=H, R15=CH3)
To a solution of trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]-pyrido[1,2-d][1,4]oxazepin1-yl)acetamide (Structure 12 of Scheme II, where R1=H, R2=H, R3=Cl, R4=R5=H, R15=CH3, X=O) (0.63 g, 1.84 mmol) in acetone (15 mL) were added N-chlorosuccinimide (246 mg, 1.84 mmol) and 6N (aq) HCl (3.1 mL). The resulting suspension was stirred at room temperature for 20 h. A second amount of N-chlorosuccinimide (246 mg, 1.84 mmol) was added and subsequently the reaction mixture was stirred at room temperature for 4 h. The reaction mixture was extracted with ethyl acetate (3×), washed with sat. (aq) NaHCO3 (3×), 10% (aq) NaCl (2×) and dried (Na2SO4). The solvents were removed under reduced pressure. The solid was purified by column chromatography (silicagel, toluene/ethanol=9/1). Subsequent purification by HPLC resulted in the title compound (137 mg, 36.4%). Data: 1H-NMR (400 MHz, CDCl3) 1.55 (m, 1H), 1.82 (m, 2H), 1.94-2.20 (m, 1H), 2.10 (s, 3H), 2.92 (m, 1H), 3.11 (td, J=12.6, 4.2, 1H), 4.39 (d, J=1.9, 1H), 4.86 (m, 1H), 7.02-7.36 (m, 6 ArH).

reactant | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]-pyrido[1,2-d][1,4]oxazepin1-yl)acetamide | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C)=O)C=CC=C3)C=C1 | C19H19ClN2O2
reactant | N-chlorosuccinimide | 1.84 mmol, 246 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | HCl | 6N, 3.1 mL | Cl | ClH
reactant | N-chlorosuccinimide | 1.84 mmol, 246 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | trans-N-(6,7-Dichloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)acetamide | 137 mg, 36.4% | ClC1=C(C=CC=2OC3=C([C@H]4N(C21)CCC[C@H]4NC(C)=O)C=CC=C3)Cl | C19H18Cl2N2O2
